US04748239
(B) (cis)-3-(Acetyloxy)-1-[2-(1-pyrrolidinyl)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride
A stirred solution of (cis)-3-hydroxy-1-[2-(1-pyrrolidinyl)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride (3.3 g, 0.0056 mmol) in 80 ml of acetic anhydride under argon was heated in an oil bath at 114°-119° C. for 4.5 hours. The bulk of acetic anhydride was removed on a rotary evaporator at 0.2 mm and the solid residue (12 g) was suspended in 30 ml of ethyl acetate, diluted with 60 ml of ether, cooled for 1 hour, filtered, washed with ether, and dried in vacuo overnight; yield, 2.60 g; melting point 228°-230° C. (dec.); s, 225° C. TLC: Rf =0.48 (8:1:1, chloroform-methanol-acetic acid).

reactant | (cis)-3-hydroxy-1-[2-(1-pyrrolidinyl)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | 0.0056 mmol, 3.3 g | Cl.O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)C(F)(F)F)CCN2CCCC2)=O
reactant | chloroform methanol acetic acid | C(Cl)(Cl)Cl.CO.C(C)(=O)O
solvent | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (cis)-3-(Acetyloxy)-1-[2-(1-pyrrolidinyl)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | Cl.C(C)(=O)O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)C(F)(F)F)CCN2CCCC2)=O | InChI=1S/C26H29F3N2O4.ClH/c1-17(32)35-24-22(18-5-8-21(34-2)9-6-18)16-19-15-20(26(27,28)29)7-10-23(19)31(25(24)33)14-13-30-11-3-4-12-30;/h5-10,15,22,24H,3-4,11-14,16H2,1-2H3;1H/t22-,24+;/m1./s1
